US08106045B2
A solution of N-(4-((2S)-morpholin-2-yl)phenyl)acetamide (2.63 g, 11.9 mmol), 2-chloro-1-methyl-6-oxo-4-(pyridin-4-yl)-1,6-dihydropyrimidine (2.60 g, 11.9 mmol), and triethylamine (3.60 g, 35.7 mmol) in tetrahydrofuran (100 ml) was stirred at 95° C. for one hour. The solvent was removed in vacuo and the residue was partitioned between water and dichloromethane. The organic layer was dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was purified by column chromatography on silica gel (chloroform-methanol, 10:1) to afford N-(4-((2S)-4-(1-Methyl-6-oxo-4-(pyridin-4-yl)-1,6-dihydropyrimidin-2-yl)morpholin-2-yl)phenyl)acetamide (2.8 g, 58%) as pale yellow crystals.

reactant | N-(4-((2S)-morpholin-2-yl)phenyl)acetamide | 11.9 mmol, 2.63 g | N1C[C@@H](OCC1)C1=CC=C(C=C1)NC(C)=O | C12H16N2O2
reactant | 2-chloro-1-methyl-6-oxo-4-(pyridin-4-yl)-1,6-dihydropyrimidine | 11.9 mmol, 2.60 g | ClC=1N(C(C=C(N1)C1=CC=NC=C1)=O)C | C10H8ClN3O
reactant | triethylamine | 35.7 mmol, 3.60 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(4-((2S)-4-(1-Methyl-6-oxo-4-(pyridin-4-yl)-1,6-dihydropyrimidin-2-yl)morpholin-2-yl)phenyl)acetamide | 2.8 g, 58% | CN1C(=NC(=CC1=O)C1=CC=NC=C1)N1C[C@@H](OCC1)C1=CC=C(C=C1)NC(C)=O | C22H23N5O3
